US04254024
Synthesis of H-Tyr-DAla-Phe-Methioninol
Boc-methionine was esterified to hydroxymethylpolystyrene-divinylbenzene (1% crosslinked) using dicyclohexylcarbodiimide and a p-dimethylaminopyridine catalyst; amino acid analysis showed a substitution of 0.316 mmoles Met/g resin. Excess hydroxyl groups were acetylated, and the peptide was assembled on the resin in the standard fashion, using the Beckman 990 synthesizer. The hydroxyl group of tyrosine was blocked during synthesis with the bromocarbobenzoxy group. Next, 2 g of peptide resin, H-Tyr(Brz)-DAla-Phe-Met-OCH2 -resin, was placed into a 100 ml roundbottomed flask. Then, 133 mg LiBH4 (ALFA) (about 10 equiv. excess over resin substitution value for Met) dissolved in 75 ml tetrahydrofuran (THF, peroxidefree) was added. A drying tube was placed on the flask and the reaction mixture stirred at room temperature for 2 hours. Excess LiBH4 was destroyed with glacial HOAc and the mixture then filtered through a coarse sinteredglass funnel. After several washes of resin with glacial HOAc, the solvents were evaporated under reduced pressure and freeze-dried. The crude lyophilized peptide (Pauly+) and remaining Li salts were then subjected to countercurrent distribution in nBAW, 4:1:5, for 100 transfers. CCD cuts were made to maximize purity rather than yield. Some 355 mg peptide was recovered from the various cuts and all cuts contained the same major product in excess over any impurities. A particularly homogeneous cut, k=2.70, yielded 55 mg of essentially pure peptide, H-Tyr-DAla-Phe-Met-ol. (TLC: nBAW 12:3:5, silica gel, Rf =0.70, Nin+, Pauly+; HVE: 1 M HOAc, pH 2.8, 60 min at 1 KV, Elys =0.44, Nin+, Pauly+; amino acid analysis: Tyr, 0.99; Ala, 1.01; Phe, 1.01; Met, 0.0; Met-ol was not detectable on analyzer).

reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Met | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | Met-ol | N[C@@H](CCSC)CO | C5H13NOS
solvent | HOAc | 1 M | CC(=O)O | C2H4O2
product | H-Tyr-DAla-Phe Methioninol | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.N[C@@H](CCSC)CO | InChI=1S/C21H25N3O5.C5H13NOS/c1-13(23-20(27)17(22)11-15-7-9-16(25)10-8-15)19(26)24-18(21(28)29)12-14-5-3-2-4-6-14;1-8-3-2-5(6)4-7/h2-10,13,17-18,25H,11-12,22H2,1H3,(H,23,27)(H,24,26)(H,28,29);5,7H,2-4,6H2,1H3/t13-,17+,18+;5-/m10/s1
